data/polar.json
{"reaction_name": "Sulfonium ylide generation", "rsmi": "[CH2:1]([S+:5]([CH3:2])[CH3:3])[H:7].[I-:6].[NH2-:4]>>[CH2-:1][S+:5]([CH3:2])[CH3:3].[I-:6].[NH2:4][H:7]", "epd": [["LP-/Sigma+", [4], [4, 7]], ["Sigma-/LP+", [1, 7], [1]]]}
{"reaction_name": "Tiffeneau–Demjanov rearrangement", "rsmi": "[N:1]#[N+:8][CH2:2][C:3]1([O:4][H:9])[CH2:5][CH2:6][CH2:7]1>>[O:4]=[C:3]1[CH2:5][CH2:6][CH2:7][CH2:2]1.[N:1]#[N:8].[H+:9]", "epd": [["Sigma-/LP+", [2, 8], [8]], ["Sigma-/Sigma+", [3, 7], [2, 7]], ["LP-/Pi+", [4], [3, 4]], ["Sigma-/LP+", [4, 9], [4]]]}
{"reaction_name": "Trifluoromethyltrimethylsilane addition", "rsmi": "[F:1][C:7]([F:2])([F:3])[Si:11]([CH3:4])([CH3:5])[CH3:6].[O:8]=[CH:10][CH3:9]>>[F:1][C:7]([F:2])([F:3])[CH:10]([O:8][Si:11]([CH3:4])([CH3:5])[CH3:6])[CH3:9]", "epd": [["Pi-/Sigma+", [8, 10], [8, 11]], ["Sigma-/Sigma+", [7, 11], [7, 10]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[cH:1]1[c:25]2[cH:24][cH:8][cH:2][cH:19][c:31]2[cH-:7][cH:26]1.[cH:3]1[cH:11][cH:15][cH:14][cH:6][c:22]1[P:10](=[O:17])([c:23]1[cH:4][cH:12][cH:16][cH:13][cH:5]1)[N:27]=[CH:9][c:18]1[cH:29][cH:20][cH:28][cH:21][cH:30]1>>[CH:1]1=[CH:26][CH:7]([CH:9]([c:18]2[cH:29][cH:20][cH:28][cH:21][cH:30]2)[N:27]=[P:10]([O-:17])([c:22]2[cH:3][cH:11][cH:15][cH:14][cH:6]2)[c:23]2[cH:4][cH:12][cH:16][cH:13][cH:5]2)[c:31]2[cH:19][cH:2][cH:8][cH:24][c:25]21", "epd": [["LP-/Sigma+", [7], [7, 9]], ["Pi-/Pi+", [9, 27], [27, 10]], ["Pi-/LP+", [10, 17], [17]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:2]1([S:9][C:20]([F:10])([F:11])[F:12])[S:3](=[O:27])(=[O:28])[c:13]2[c:32]([cH:29][cH:14][cH:33][cH:35]2)[C:34]1=[O:23].[cH:1]1[cH:17][cH:21][c:16]([B-:4]2([CH2:19][CH:15]=[CH2:26])[O:30][C:24]([CH3:5])([CH3:6])[C:25]([CH3:7])([CH3:8])[O:31]2)[cH:22][cH:18]1>>[N:2]1=[C:34]([O-:23])[c:32]2[c:13]([cH:35][cH:33][cH:14][cH:29]2)[S:3]1(=[O:27])=[O:28].[cH:1]1[cH:17][cH:21][c:16]([B-:4]2([CH2:19][CH+:15][CH2:26][S:9][C:20]([F:10])([F:11])[F:12])[O:30][C:24]([CH3:5])([CH3:6])[C:25]([CH3:7])([CH3:8])[O:31]2)[cH:22][cH:18]1", "epd": [["Pi-/Sigma+", [26, 15], [26, 9]], ["Sigma-/Pi+", [9, 2], [2, 34]], ["Pi-/LP+", [34, 23], [23]]]}
{"reaction_name": "Cyanoethyl deprotection", "rsmi": "[O-:3][CH3:5].[O:1]([CH2:4][CH:7]([C:2]#[N:6])[H:9])[CH3:8]>>[C:2](#[N:6])[CH:7]=[CH2:4].[O-:1][CH3:8].[O:3]([CH3:5])[H:9]", "epd": [["LP-/Sigma+", [3], [3, 9]], ["Sigma-/Pi+", [7, 9], [4, 7]], ["Sigma-/LP+", [1, 4], [1]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:13][cH:7][c:8]2[c:6]1[N+:21]([CH3:10])=[CH:12][C:11]2=[CH:9][c:18]1[cH:14][cH:22][cH:25][cH:23][cH:15]1.[n:3]1([CH3:24])[c:4]([CH3:19])[cH:16][cH:17][c:5]1[CH3:20]>>[cH:1]1[cH:2][cH:13][cH:7][c:8]2[c:6]1[n:21]([CH3:10])[cH:12][c:11]2[CH:9]([CH:16]1[C:4]([CH3:19])=[N+:3]([CH3:24])[C:5]([CH3:20])=[CH:17]1)[c:18]1[cH:14][cH:22][cH:25][cH:23][cH:15]1", "epd": [["LP-/Pi+", [3], [4, 3]], ["Pi-/Sigma+", [16, 4], [16, 9]], ["Pi-/Pi+", [9, 11], [11, 12]], ["Pi-/LP+", [12, 21], [21]]]}
{"reaction_name": "Addition to nitrile imines", "rsmi": "[CH3:5][CH:4]=[N+:3]=[N-:6].[O-:1][CH3:2]>>[CH3:5][CH:4]([O:1][CH3:2])[N:3]=[N-:6]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/LP+", [3, 4], [3]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[N+:6](=[CH:11][CH3:10])([O-:12])[O-:13].[c:1]1([N:14]=[C:3]=[S:7])[cH:16][cH:8][c:4]([N+:15](=[O:2])[O-:5])[cH:9][cH:17]1>>[c:1]1([N:14]=[C:3]([S-:7])[CH:11]([N+:6](=[O:12])[O-:13])[CH3:10])[cH:16][cH:8][c:4]([N+:15](=[O:2])[O-:5])[cH:9][cH:17]1", "epd": [["LP-/Pi+", [12], [6, 12]], ["Pi-/Sigma+", [11, 6], [11, 3]], ["Pi-/LP+", [3, 7], [7]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:2]1([S:5][C:17]([F:8])([F:9])[F:10])[S:4](=[O:20])(=[O:21])[c:11]2[c:23]([cH:22][cH:13][cH:24][cH:26]2)[C:25]1=[O:19].[O-:1][C:18](=[CH:3][c:12]1[cH:15][cH:6][cH:28][cH:7][cH:16]1)[O:27][CH2:29][CH3:14]>>[N:2]1=[C:25]([O-:19])[c:23]2[c:11]([cH:26][cH:24][cH:13][cH:22]2)[S:4]1(=[O:20])=[O:21].[O:1]=[C:18]([CH:3]([S:5][C:17]([F:8])([F:9])[F:10])[c:12]1[cH:15][cH:6][cH:28][cH:7][cH:16]1)[O:27][CH2:29][CH3:14]", "epd": [["LP-/Pi+", [1], [18, 1]], ["Pi-/Sigma+", [3, 18], [3, 5]], ["Sigma-/Pi+", [5, 2], [2, 25]], ["Pi-/LP+", [25, 19], [19]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[O-:1][C:17](=[CH:2][c:8]1[cH:13][cH:5][cH:19][cH:6][cH:14]1)[O:18][CH2:20][CH3:12].[c:3]1([N:21]=[C:7]=[S:11])[cH:23][cH:15][c:9]([N+:22](=[O:4])[O-:10])[cH:16][cH:24]1>>[O:1]=[C:17]([CH:2]([C:7]([S-:11])=[N:21][c:3]1[cH:23][cH:15][c:9]([N+:22](=[O:4])[O-:10])[cH:16][cH:24]1)[c:8]1[cH:13][cH:5][cH:19][cH:6][cH:14]1)[O:18][CH2:20][CH3:12]", "epd": [["LP-/Pi+", [1], [17, 1]], ["Pi-/Sigma+", [2, 17], [2, 7]], ["Pi-/LP+", [7, 11], [11]]]}
